US06060605
By the method of Example (IV-1), 100 mmol of 3-bromo-6-chloro-4-fluoro-toluene are reacted with 2-methyl-3-butin-2-ol to give 1-(4-chloro-2-fluoro-5-methyl-phenyl) -3-methyl-1-butin-3-ol, except that the mixture is only filtered after the reaction and not concentrated. The filtrate is then admixed with 1.5 g of sodium hydroxide (powder) and the mixture is heated to the boil in a distillation apparatus (with Vigreux column). Distillate is continuously removed, until the boiling point of triethylamine (89° C.) is reached. The mixture is then allowed to cool, filtered and washed with some ml of triethylamine. The filtrate is subsequently subjected to fractional distillation.

reactant | 3-bromo-6-chloro-4-fluoro-toluene | 100 mmol | BrC=1C=C(C(=CC1F)Cl)C | C7H5BrClF
reactant | 2-methyl-3-butin-2-ol | CC(C)(C#C)O | C5H8O
product | 1-(4-chloro-2-fluoro-5-methyl-phenyl) -3-methyl-1-butin-3-ol | ClC1=CC(=C(C=C1C)C#CC(C)(O)C)F | C12H12ClFO
